2186-03-11 06:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2186-3-10**] 08:51 PM
   Pt had periods of apnea overnight with desats to 60-70s; improved
   quickly to 100%; put on face tent; ? OSA
   Allergies:
   Ace Inhibitors
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2186-3-10**] 09:00 PM
   Cefipime - [**2186-3-11**] 12:00 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2186-3-10**] 08:30 PM
   Fentanyl - [**2186-3-10**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-3-11**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.6
C (97.9
   HR: 70 (62 - 94) bpm
   BP: 176/69(98) {138/61(84) - 191/143(148)} mmHg
   RR: 18 (15 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    766 mL
                                                                    834 mL
   PO:
             TF:
   IVF:
                                                                    766 mL
                                                                    834 mL
   Blood products:
   Total out:
                                                                    480 mL
                                                                    515 mL
   Urine:
                                                                    480 mL
                                                                    515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    286 mL
                                                                    319 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   Gen: very agitated
   HEENT: Pupils- cataracts b/l; difficult to assess, MMM
   CV: +3/6 systolic murmur at LUSB
   Pulm: CTA anteriorly, but limited exam due to poor patient cooperation
   Abd: soft, nontender, slighly distended, bowel sounds present, no
   rebound or guarding appreciated.
   Ext: no peripheral edema, warm & well perfused
   Neuro: Pt knows name, "hospital" "[**2176**] something". He has cataracts in
   both eyes, difficult to assess pupils. Unable to follow simple
   commands. Right facial droop noted. RUE/RLE strength intact, does not
   move LUE not moving, LLE weak. Exam limited by agitation.
   Labs / Radiology
   226 K/uL
   11.4 g/dL
   88 mg/dL
   1.1 mg/dL
   21 mEq/L
   3.8 mEq/L
   19 mg/dL
   112 mEq/L
   144 mEq/L
   34.8 %
   12.1 K/uL
        [image002.jpg]
                             [**2186-3-11**]  04:33 AM
   WBC
   12.1
   Hct
   34.8
   Plt
   226
   Cr
   1.1
   Glucose
   88
   Other labs: PT / PTT / INR:/27.7/, Ca++:9.1 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.1 mg/dL
   UA: E coli 10-100K colonies
   Assessment and Plan
   Mr. [**Known lastname 11214**] is an 86 year old male with HTN, CAD, HL, type 2 diabetes,
   seizure disorder, admitted with altered mental status due to seizures,
   sigmoid vovulus and pneumonia.
   .
   1. Sigmoid volvulus. Now s/p decompression with flex sigmoidoscopy.
   - IVFs, NPO
   - NGT to suction
   - F/U KUB this AM
   - monitor potassium and replete to prevent metabolic ileus per surgery
   - notify GI & surgery if any clinical change
   - follow GI recs /surgery recs
   .
   # Mental Status Changes- On initial evaluation, CODE stroke was called
   however pt was noted to have nystagmus and EEG done which showed
   evidence of seizures; he was loaded with dilantin.  Subsequently MS
   improved but not back to baseline.  Patient has additional reasons for
   MS changes; including UTI and possible pneumonia. Also may be post
   ictal state. Cardiac enzymes were negative x2. Dilatin load may be
   contributing as well
   -Cont Vanc/Cefepime for infectious etiology as below
   -Will continue to treat seizures with Dilantin
   -Neuro following
   -Need to determine baseline MS from family
   -Speech/Swallow consulted; see nutrition below but high aspiration risk
   .
   # Seizures- Per neuro; has h/o strokes that could be a focus for
   seizure activity.
   -Dilantin IV per neuro
   -Dilantin level today
   -Appreciate neuro recs
   -Ativan prn seizure
   .
   # Pneumonia. Noted to have LLL PNA on CXR. Likely secondary to
   aspiration as patient has baseline dysphagia and recent seizure
   activity vs HAP (given NH resident)
   - Will broaded coverage given for HAP to Vanc/Cefepime given residence
   in nursing home
   - monitor respiratory status though currently not requiring
   supplemental oxygen
   - Sputum cultures
   - Repeat CXR in AM
   - Monitor fever/WBC curve
   - Blood cultures
   .
   # [**Name (NI) 11215**] Pt urine growing 10-100K E.Coli
   -Treat with above abx for now to cover pneumonia/UTI
   -Follow up urine sensetivities
   .
   # HTN. BP mildly elevated (160s) in setting of obstruction. Would like
   to avoid aggressive antihypertensive regimens due to poor IV access.
   - will resume valsartan and diovan when taking POs
   - hydralazine IV prn for now
   .
   # Type 2 diabetes.
   - HISS
   - will d/c glargine as patient has type 2 DM, is NPO, and has poor IV
   access, but will consider resuming if there is significant
   hyperglycemia
   .
   # H/O DVT: Patient with IVC filter, no systemic anticoagulation. Will
   need to clarify as he is at higher risk of thrombosis given immobility
   and filter
   .
   #CAD.
   - aspirin, statin, BB when taking POs
   .
   # HL
   - simvastatin when taking POs
   .
   #GERD.
   -  Continue omeprazole
   .
   #Depression.
   -Continue celexa
   .
   PPx: bowel regimen, HSQ
   Access: PICC line placement tonight by IR
   CODE: FULL, confirmed with HCP, son [**Name (NI) **] by neurology team
 CENTRAL SLEEP APNEA (CSA)
 HYPERTENSION, BENIGN
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 LARGE BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, INCLUDING VOLVULUS,
   ADHESIONS)
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
   ICU Care
   Nutrition: Maintenance fluids; change to nectar thick/pureed solids
   Glycemic Control:
   Lines:
   PICC Line - [**2186-3-10**] 08:51 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Observe until afternoon, floor if stable

2186-03-11 08:30:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 PICC LINE - START [**2186-3-10**] 08:51 PM
   Broadened antibiotics to Vanco and cefepime for pneumonia
   Allergies:
   Ace Inhibitors
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2186-3-10**] 09:00 PM
   Cefipime - [**2186-3-11**] 12:00 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2186-3-10**] 08:30 PM
   Fentanyl - [**2186-3-10**] 08:30 PM
   Other medications:
   insulin sliding scale, simvastatin, aspirin, omeprazole, MVI,
   bisacodyl, MoM, citalopram, dilantin 100mg iv q8, vancomycin, heparin
   s/c tid.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-3-11**] 08:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.6
C (97.9
   HR: 70 (62 - 94) bpm
   BP: 176/69(98) {138/61(84) - 191/143(148)} mmHg
   RR: 18 (15 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    766 mL
                                                                    834 mL
   PO:
             TF:
   IVF:
                                                                    766 mL
                                                                    834 mL
   Blood products:
   Total out:
                                                                    480 mL
                                                                    515 mL
   Urine:
                                                                    480 mL
                                                                    515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    286 mL
                                                                    319 mL
   Respiratory support
   O2 Delivery Device: Face tent
   FiO2: 0.35
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   General Appearance: somnolent, but arousable with difficulty
   Eyes / Conjunctiva: Right cataract
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, decreased bowel sounds
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Normal
   Labs / Radiology
   11.4 g/dL
   226 K/uL
   88 mg/dL
   1.1 mg/dL
   21 mEq/L
   3.8 mEq/L
   19 mg/dL
   112 mEq/L
   144 mEq/L
   34.8 %
   12.1 K/uL
        [image002.jpg]
                             [**2186-3-11**]  04:33 AM
   WBC
   12.1
   Hct
   34.8
   Plt
   226
   Cr
   1.1
   Glucose
   88
   Other labs: PT / PTT / INR:12.3/27.7/1.0, Ca++:9.1 mg/dL, Mg++:1.8
   mg/dL, PO4:3.1 mg/dL
   Imaging: CXR: ? LL infiltrate
   KUB: decreased size of bowel loops, final read pending.
   Microbiology: Blood cultures
   Urine E.coli <100,000
   Assessment and Plan
 CENTRAL SLEEP APNEA (CSA): will continue to monitor, no prior sleep
   study.
 HYPERTENSION, BENIGN: will resume oral medications.
 LARGE BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, INCLUDING VOLVULUS,
   ADHESIONS): s/p sigmoidoscopy will followup KUB final read.
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC: no acute stroke.
 Altered Mental status: will clarify with family his baseline, he's on
   dilantin for seizure activity. at high risk for aspiration. Per the
   piror provider his mental status has been clearing. Currently lethargic
   in the setting of clear desaturations consistent with sleep apnea. Will
   continue to monitor this am. If continue to be somnlent will obtain
   ABG.
Infection: UTI +/- pneumonia on vanco and cefepime will narrow per
   culture data. At high risk of aspiration, already evaluated by SLP.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2186-3-10**] 08:51 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   -desats overnight
   -flex sig for decompression
   Somnolent, but arousable to voice
   Cardiovascular: RRR
   Lungs - rhonchi
   Abdominal: Soft, NT, BS [**Month (only) 453**]
   Ext: no edema
   Skin:  Warm
 Mental status
   -neuro who is familiar w/ patient from admission feels mental status is
   close to baseline for this admission
   -need to d/w family to determine what baseline level of function is.
 LARGE BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, INCLUDING VOLVULUS,
   ADHESIONS):
   -s/p flex sig decompression
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
 HYPERTENSION, BENIGN:
   -resume oral medications.
Nocturnal desats
   -sleep apnea?
   -study  as outpt once discharged and stable
Infection:
   -WBC trending down, afeb
   -cx data pending.  On broad spectrum coverage for now
   -E. Coli in urine
   Remainder of plan per resident & fellow notes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 174**] [**Last Name (NamePattern1) 911**], MD
   on:[**2186-3-11**] 14:36 ------

2186-03-13 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2186-3-12**] 06:05 PM
 COLONOSCOPY - At [**2186-3-12**] 07:30 PM
   -- pt underwent flex sig to decompress volvulus. When they were
   finishing up his sigmoid twisted again and had to repeat procedure.  GI
   states that it will likely recur and needs surgical intervention
   -- surgery to see and evaluate to patient. Will discuss with their
   attending
   -- KUB this AM is unchanged, continued volvulus
   Allergies:
   Ace Inhibitors
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2186-3-10**] 09:00 PM
   Cefipime - [**2186-3-13**] 12:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2186-3-12**] 07:30 PM
   Midazolam (Versed) - [**2186-3-12**] 07:30 PM
   Hydralazine - [**2186-3-12**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-3-13**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37
C (98.6
   HR: 76 (68 - 94) bpm
   BP: 176/83(107) {144/52(77) - 183/83(107)} mmHg
   RR: 23 (13 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    940 mL
                                                                    748 mL
   PO:
             TF:
   IVF:
                                                                    940 mL
                                                                    748 mL
   Blood products:
   Total out:
                                                                    390 mL
                                                                    900 mL
   Urine:
                                                                    390 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    550 mL
                                                                   -152 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   Gen: NAD, elderly male, chronically ill appearing
   HEENT: Pupils- cataracts b/l; difficult to assess, MMM
   CV: +3/6 systolic murmur at LUSB
   Pulm: CTA anteriorly, but limited exam due to poor patient cooperation
   Abd: mildly irm, tenderness in the LLQ, distended, tympanic in the LLQ,
   bowel sounds present, no rebound or guarding appreciated.
   Ext: no peripheral edema, warm & well perfused
   Neuro: Pt knows name and at [**Hospital1 5**], did not no date. He has cataracts in
   both eyes, difficult to assess pupils. Unable to follow simple
   commands. Right facial droop noted. RUE/RLE strength intact, does not
   move LUE not moving, LLE weak. Exam limited by agitation.
   Labs / Radiology
   218 K/uL
   11.2 g/dL
   166 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.9 mEq/L
   8 mg/dL
   112 mEq/L
   143 mEq/L
   33.5 %
   11.7 K/uL
        [image002.jpg]
                             [**2186-3-11**]  04:33 AM
                             [**2186-3-12**]  08:28 PM
                             [**2186-3-13**]  04:02 AM
   WBC
   12.1
   11.7
   Hct
   34.8
   33.5
   Plt
   226
   218
   Cr
   1.1
   1.0
   1.0
   Glucose
   88
   166
   Other labs: PT / PTT / INR:12.6/91.3/1.1, ALT / AST:15/22, Alk Phos / T
   Bili:66/0.3, Differential-Neuts:64.4 %, Lymph:26.6 %, Mono:4.6 %,
   Eos:4.0 %, Lactic Acid:1.4 mmol/L, Albumin:3.5 g/dL, LDH:229 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
 CENTRAL SLEEP APNEA (CSA)
 HYPERTENSION, BENIGN
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 LARGE BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, INCLUDING VOLVULUS,
   ADHESIONS)
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
   A/P: Mr. [**Known lastname 11214**] is an 86 year old male with HTN, CAD, HL, type 2
   diabetes, seizure disorder, admitted with altered mental status due to
   seizures, sigmoid vovulus and pneumonia.
   .
   # Sigmoid volvulus. Pt found to have volvulus on [**3-10**] and underwent
   flex sig for decompression.  Per report it was successful, however
   repeat KUB showed unchanged volvulus.  Unclear as to whether
   decompression failed or reoccured.  Pt evaluated by surgery who feel
   this should be managed non-operatively. GI planning for repeat flex sig
   tonight, if unable to correct then will likely need surgery.
   - IVFs, NPO
   - NGT to suction
   - flex sig per GI
   - f/u GI recs
   - f/u surgery recs and will likely need surgery for definitive treat
   given failed flex sig
   - repeat KUB after procedure and in AM
   - serial abd exams
   - trend lactate
   - Consider TTE for risk stratification pre-op
   .
   #Seizures- Per neuro; has h/o strokes that could be a focus for seizure
   activity.
   -cont Dilantin
   - AM level
   -Appreciate neuro recs
   -Ativan prn seizure
   - seizure precautions
   .
   #Pneumonia. Noted to have LLL PNA on CXR, although recent CXR shows
   clearing of opacity. Likely secondary to aspiration as patient has
   baseline dysphagia and recent seizure activity vs HAP (given NH
   resident). Sputum gram stain shows GNR, but culture is currently only
   resp flora.
   - Will d/c Vanco given no evidence of MRSA pna and will cont Cefepime
   given residence in nursing home
   - monitor respiratory status though currently not requiring
   supplemental oxygen
   - f/u Sputum cultures
   - Repeat CXR in AM
   - Monitor fever/WBC curve
   - Blood cultures
   .
   #[**Name (NI) 11215**] Pt urine growing 10-100K E.Coli pansensitive
   -Treat with above abx for now to cover pneumonia/UTI
   .
   #. Hypernatermia: Likey secondary to poor po intake given pt NPO for
   volvulus. Additionally, pt was on d5 NS
   - will replete with maintence fluid of d5
   - trend sodium
   .
   #HTN. BP mildly elevated (160s) in setting of obstruction. Would like
   to avoid aggressive antihypertensive regimens
   - will hold off on valsartan and dilt
   - hydralazine IV prn for now
   .
   # Type 2 diabetes.
   - HISS
   - will d/c glargine as patient has type 2 DM, is NPO.
   .
   #CAD.
   - aspirin, statin,
   .
   # HL
   - simvastatin when taking POs
   .
   #GERD.
   - omeprazole
   .
   #Depression.
   - celexa
   .
   PPx: bowel regimen, PPI HSQ
   FEN: NPO, IVFs
   Access: PICC
   CODE: FULL, confirmed with HCP, son [**Name (NI) **]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2186-3-12**] 06:05 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2186-03-13 10:37:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 PICC LINE - START [**2186-3-12**] 06:05 PM
 COLONOSCOPY - At [**2186-3-12**] 07:30 PM
   Allergies:
   Ace Inhibitors
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2186-3-10**] 09:00 PM
   Cefipime - [**2186-3-13**] 12:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2186-3-12**] 07:30 PM
   Midazolam (Versed) - [**2186-3-12**] 07:30 PM
   Hydralazine - [**2186-3-12**] 08:30 PM
   Other medications:
   insulin, phenytoin, lansoprazole, heparin tid, cefepime, latanoprost,
   [**Last Name (LF) 11253**], [**First Name3 (LF) **], MVI, bisacodyl, MoM, celexa, midazolam, hydralazine,
   neutraphos, potassium, magnesium.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-3-13**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.8
   HR: 64 (64 - 94) bpm
   BP: 154/68(98) {136/52(77) - 183/83(107)} mmHg
   RR: 17 (13 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    940 mL
                                                                    781 mL
   PO:
             TF:
   IVF:
                                                                    940 mL
                                                                    781 mL
   Blood products:
   Total out:
                                                                    390 mL
                                                                  1,120 mL
   Urine:
                                                                    390 mL
                                                                  1,120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    550 mL
                                                                   -339 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress, Thin, Anxious
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: No(t) Soft, Non-tender, Distended, tympanitic
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): home, self, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   11.2 g/dL
   218 K/uL
   166 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.9 mEq/L
   8 mg/dL
   112 mEq/L
   143 mEq/L
   33.5 %
   11.7 K/uL
        [image002.jpg]
                             [**2186-3-11**]  04:33 AM
                             [**2186-3-12**]  08:28 PM
                             [**2186-3-13**]  04:02 AM
   WBC
   12.1
   11.7
   Hct
   34.8
   33.5
   Plt
   226
   218
   Cr
   1.1
   1.0
   1.0
   Glucose
   88
   166
   Other labs: PT / PTT / INR:12.6/91.3/1.1, ALT / AST:15/22, Alk Phos / T
   Bili:66/0.3, Differential-Neuts:64.4 %, Lymph:26.6 %, Mono:4.6 %,
   Eos:4.0 %, Lactic Acid:0.9 mmol/L, Albumin:3.5 g/dL, LDH:229 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:1.7 mg/dL
   Imaging: KUB with persistent sigmoid volvulus
   CXR clear.
   Microbiology: sputum gram positive rods, culture with respiratory flora
   Urine E.coli pansensitive.
   Assessment and Plan
 HYPERTENSION, BENIGN: continues to be elevated, starting bblocker,
   start standing low dose hydralazine.
 SEIZURE, WITHOUT STATUS EPILEPTICUS: on dilantin.
 LARGE BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, INCLUDING VOLVULUS,
   ADHESIONS): Will need surgery for definitive therapy. PTT prolonged
   currently  likely [**3-14**] to s/c heparin may hold off surgery. For now will
   keep NPO and hold heparin. Will connect NG to LWS. Will start preop
   bblockade given history of CAD with lopressor 12.5 [**Hospital1 **]. Will obtain
   echo.
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC : on stable aspirin.
? pneumonia/UTI: cefepime x8days for HAP/UTI/aspiration.
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   PICC Line - [**2186-3-12**] 06:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30
   ------ Protected Section ------
   Attending Note: I saw and examined the patient, and was physically
   present with Dr. [**First Name (STitle) 9018**] for the key portions of the services provided.
   I agree with the note above, including the assessment and plan. I would
   emphasize and add the following points:
   86M HTN, CAD, HLD, DM, CVAs admitted to neurology from NH [**3-9**] with
   facial droop/slurred speech found to be seizing, now controlled on
   Dilantin. Hospital course has been notable for pan s E Coli UTI,
   possible asp pna on vanco/cefepime (Day 3), and abd distension with
   recurrent sigmoid volvulus. He is s/p decompression flex sig on [**3-10**]
   but continues to have radiographic evidence of volvulus and was
   transferred back to MICU for repeat attempt at decompression flex sig.
   GI and surgery following.
   Exam as above. Awake, no resp distress, S1S2 regular, Abdomen soft,
   nontender.
   PTT 91, INR 1.1, Hct 33.5
   Flex sig today did not reveal a volvulus. Rectal tube was inserted for
   decompression.
   Impression
 large bowel obstruction, will likely need surgery for
   definitive therapy. Prolonged PTT may be due to s/c heparin. For now
   will keep NPO and hold heparin. Agree with NG at LWS, cefepime x 8 days
   for HAP/aspiration, beta blocker given history of CAD with lopressor
   12.5mg [**Hospital1 **]. Echo pending. Will transfer to surgical service tonight.
   Time 38 minutes.
   [**First Name8 (NamePattern2) 366**] [**Last Name (NamePattern1) 15**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 366**] [**Last Name (NamePattern1) 15**], MD
   on:[**2186-3-13**] 17:10 ------